US09255100B2
(4-fluoro-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid
To a solution of 6.00 g (16.6 mmol) [(2-bromo-5-fluorobenzyl)oxy](triisopropyl)silane which was prepared according to intermediate example 299c in 60 mL tetrahydrofuran were added 7.31 mL n-butyllithium (2.5M in hexane) at −78° C. After 20 minutes of stirring 5.58 mL trimethyl borate were added and stirring was continued for additional 60 minutes. The mixture was allowed to warm to 23° C., poured into a saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. After filtration and removal of the solvent the residue was purified by chromatography to give 3.16 g (58%) of the title compound.

reactant | [(2-bromo-5-fluorobenzyl)oxy](triisopropyl)silane | 16.6 mmol, 6.00 g | BrC1=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C(C=C1)F | C16H26BrFOSi
reactant | n-butyllithium | 2.5M, 7.31 mL | C(CCC)[Li]
reactant | trimethyl borate | 5.58 mL | B(OC)(OC)OC | C3H9BO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | (4-fluoro-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid | 3.16 g, 58% | FC1=CC(=C(C=C1)B(O)O)CO[Si](C(C)C)(C(C)C)C(C)C | C16H28BFO3Si
